US05958942
iv) Synthesis of 4,5-dihydro-2-ethyl-4-[5-(trifluoro-methanesulfonamido)pentan-1-yl]-3H-1,4,8b-triaza-acenaphthylene
To a solution of 785 mg (2.00 mmol) of 2-ethyl-5-[N-[5-(trifluoromethanesulfonamido)pentan-1-yl]aminomethyl]imidazo[1,2-a]pyridine in 5 ml of acetic acid was added 2.25 ml (30.00 mmol) of a 37% aqueous solution of formalin. The mixture was heated for 30 minutes at 100° C. The solvent was then distilled off under reduced pressure. The residue was dissolved in 100 ml of a saturated aqueous solution of potassium carbonate. This solution was neutralized, under ice-cooling, with 1N HCl, which was extracted twice with 100 ml of chloroform. The organic layer was dried over magnesium sulfate, then the solvent was distilled off under reduced pressure. The residue was purified by silicagel column chromatography (eluent: chloroform/methanol=20:1) to give 527 mg of the desired compound (65.2%, colorless liquid).

reactant | 2-ethyl-5-[N-[5-(trifluoromethanesulfonamido)pentan-1-yl]aminomethyl]imidazo[1,2-a]pyridine | 2.00 mmol, 785 mg | C(C)C=1N=C2N(C(=CC=C2)CNCCCCCNS(=O)(=O)C(F)(F)F)C1 | C16H23F3N4O2S
reactant | formalin | C=O | CH2O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 4,5-dihydro-2-ethyl-4-[5-(trifluoro-methanesulfonamido)pentan-1-yl]-3H-1,4,8b-triaza-acenaphthylene | 527 mg, 65.2% | C(C)C=1N=C2C=CC=C3CN(CC1N23)CCCCCNS(=O)(=O)C(F)(F)F | C17H23F3N4O2S
